US05665716
C. 4-Ethyl-2-hexanone
85.2 g methyl iodide in 50 ml of diethyl ether are added dropwise. Thereafter, 100 ml of benzene are added, and a part of the diethylether is distilled off. After addition of 33.3 g of ethyl-2-butyl-carbonitrile 19b, the mixture is heated under reflux for 5 hours. The reaction mixture is hydrolyzed with NH4Cl-solution, extracted with diethyl ether, washed with water, dried over sodium sulfate, concentrated, and distilled in vacuo over a Vigreux column. Obtained are:

reactant | methyl iodide | 85.2 g | CI | CH3I
reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 4-Ethyl-2-hexanone | C(C)C(CC(C)=O)CC | C8H16O
